US04898862
20(a) Ethyl N-[p-[(2-morpholinoethyl)aminocarbonylmethoxy]phenacy]carbamate
31 mg of sodium hydride (as a 55% w/w dispersion in mineral oil) were added to a solution of 156 mg of ethyl N-(p-hydroxyphenacyl)carbamate (prepared as described in Preparation 6) dissolved in 10 ml of dimethylformamide. The mixture was then stirred at room temperature for 30 minute, after which 200 mg of 2-chloro-N-(2-morpholinoethyl)acetamide were added, and the mixture was stirred at 100° to 110° C. for 4 hours. The reaction mixture was then poured into ice-water and extracted with methylene chloride. The organic layer was washed with water, dried over anhydrous magnesium sulfate and concentrated by evaporation under reduced pressure. The residue was purified by column chromatography through silica gel eluted with ethyl acetate, to give 190 mg of the title compound as pale yellow needles melting at 133°-135° C.

reactant | sodium hydride | 31 mg | [H-].[Na+]
reactant | ethyl N-(p-hydroxyphenacyl)carbamate | 156 mg | OC1=CC=C(C(CNC(OCC)=O)=O)C=C1 | C11H13NO4
reactant | 2-chloro-N-(2-morpholinoethyl)acetamide | 200 mg | ClCC(=O)NCCN1CCOCC1 | C8H15ClN2O2
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | Ethyl N-[p-[(2-morpholinoethyl)aminocarbonylmethoxy]phenacy]carbamate | 190 mg | O1CCN(CC1)CCNC(=O)COC1=CC=C(C(CNC(OCC)=O)=O)C=C1 | C19H27N3O6
